US05681838
Methyl N-(2-aminoethyl)-N-(9-fluorenylmethoxycarbonyl)aminoacetate hydrochloride
2.15 ml of thionyl chloride are added dropwise, at 0° C., to 75 ml of anhydrous methanol. Subsequently, 7.5 g (20 mmol) of N-(2-aminoethyl)-N-(9-fluorenylmethoxycarbonyl)aminoacetic acid hydrochloride are added in portions. The mixture is stirred at 0° C. for one hour, allowed to warm to room temperature, and then stirred further overnight. The reaction solution is concentrated and the precipitate is filtered off with suction and dried.

reactant | thionyl chloride | 2.15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N-(2-aminoethyl)-N-(9-fluorenylmethoxycarbonyl)aminoacetic acid hydrochloride | 20 mmol, 7.5 g | Cl.NCCN(C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)CC(=O)O
reactant | methanol | 75 ml | CO | CH4O
product | Methyl N-(2-aminoethyl)-N-(9-fluorenylmethoxycarbonyl)aminoacetate hydrochloride | Cl.NCCN(C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)CC(=O)OC | InChI=1S/C20H22N2O4.ClH/c1-25-19(23)12-22(11-10-21)20(24)26-13-18-16-8-4-2-6-14(16)15-7-3-5-9-17(15)18;/h2-9,18H,10-13,21H2,1H3;1H
